US07071184B2
c. (2R,5R,6R)-5-tert-Butoxycarbonylamino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester
Boc anhydride (0.9 g, 4.13 mmol) was added to a solution of (2R,5R,6R)-5-Amino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester (1.0 g, 3.18 mmol), triethylamine (0.38 g, 0.53 ml, 3.82 mmol) in THF (5 ml) and H2O (5 ml) and was stirred at RT for 1 H. The THF and excess triethylamine were removed in vacuo, then the reaction mixture was diluted with H2O (10 ml), extracted with EtOAc (3×20 ml), then the combined organics were extracted with H2O (30 ml), brine (30 ml), dried with MgSO4, filtered through silica gel, concentrated, then used in the next reaction without further purification (1.0 g, 83%): Electrospray mass spec: M+H+=379.2.

reactant | Boc anhydride | 4.13 mmol, 0.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (2R,5R,6R)-5-Amino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | 3.18 mmol, 1.0 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@H]([C@@H](C1)O)N)C | C15H22N2O3
reactant | triethylamine | 3.82 mmol, 0.53 ml, 0.38 g | C(C)N(CC)CC | C6H15N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | H2O | 5 ml | O | H2O
product | (2R,5R,6R)-5-tert-Butoxycarbonylamino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@H]([C@@H](C1)O)NC(=O)OC(C)(C)C)C | C20H30N2O5
